US06855710B2
c) (Z)-1-acetyl-3-[1-(4-isopropylsulphonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 1c from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 4-isopropylsulphonylamino-aniline.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 4-isopropylsulphonylamino-aniline | C(C)(C)S(=O)(=O)NC1=CC=C(N)C=C1 | C9H14N2O2S
product | (Z)-1-acetyl-3-[1-(4-isopropylsulphonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(C)(=O)N1C(\C(\C2=CC=CC=C12)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)NS(=O)(=O)C(C)C)=O | C26H25N3O4S
